* C:\Documents and Settings\Administrator\My Documents\Dsch2\Book on CMOS\spiceInv.sch
* DSCH 2.6i
* created 5/9/2003 10:18:39 AM
*
MP1 1 2 3 1 TP W=1.0u L=0.12u
* Gate n°2
VDD 1 0 DC 1.2
VG 2 0 DC 1.2
VD 3 0 DC 1.2
*
* Mos models in 0.12µm
* Model 3 p-channel MOS
.MODEL  TP  PMOS
+ LEVEL=3            TPG=-1
+ GAMMA=0.2          THETA=0.5          KAPPA=0.01         ETA=0.001
+ DELTA=0.0          UO=250             VMAX=500E3         VTO=-0.35
+ TOX=3E-9          XJ=0.1U            LD=0.0U            NSUB=1E+18
+ NSS=0.0            NFS=7E11
+ CJ=6.852E-4        MJ=0.429           PB=1.0
+ CJSW=5.217E-10     MJSW=0.351
+ CGSO=7.29E-10      CGDO=7.29E-10
.DC VD 0 1.2 0.1 VG 0 1.2 0.2 
*#run
*#plot I(VD)
.OPTIONS RELTOL=0.00001
.END
